US06100233
Preparation of 3,7-dimethyl-1,6-octadien-3-yl 3-oxo-2-benzylbutyrate
Potassium carbonate (3.92 g, 0.028 mol), 3,7-dimethyl-1,6-octadien-3-yl 3-oxo-butyrate (4.80 g, 0.030 mol), benzyl chloride (4.80 g, 0.038 mol) and acetone (15 mL) are placed in a 50 mL round-bottomed flask fitted with a magnetic stirrer, condenser and argon inlet. The mixture is heated to reflux for 18 h. The cooled mixture is filtered and concentrated by rotary evaporation. The resulting oil is purified on silica gel to yield the desired compound. Structure is confirmed by thin layer chromatography and 1H and 13C NMR.

reactant | Potassium carbonate | 0.028 mol, 3.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,7-dimethyl-1,6-octadien-3-yl 3-oxo-butyrate | 0.030 mol, 4.80 g | O=C(CC(=O)OC(C=C)(CCC=C(C)C)C)C | C14H22O3
reactant | benzyl chloride | 0.038 mol, 4.80 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 3,7-dimethyl-1,6-octadien-3-yl 3-oxo-2-benzylbutyrate | O=C(C(C(=O)OC(C=C)(CCC=C(C)C)C)CC1=CC=CC=C1)C | C21H28O3
